US06060477
7-(2-Hydroxyethylamino)-4-oxo 2-(2-propoxyphenyl)-3,4-dihydropyrimido[4 5-d]pyrimidine
A stirred mixture of 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.60 g) and ethanolamine (0.25 ml) in ethanol (20 ml) was heated under reflux for 19 hours. More ethanolamine (0.75 ml) was added and stirring under reflux continued for 16 hours. A white crystalline solid which precipitated from the cooled reaction mixture was collected, washed with cold ethanol and recrystallized from ethanol to yield the title compound, 0.38 g, m.p. 204-205.5° C.

reactant | 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.60 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | ethanolamine | 0.25 ml | C(O)CN | C2H7NO
reactant | ethanolamine | 0.75 ml | C(O)CN | C2H7NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-(2-Hydroxyethylamino)-4-oxo 2-(2-propoxyphenyl)-3,4-dihydropyrimido[4 5-d]pyrimidine | OCCNC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C17H19N5O3
